US09079866B2
4′-(5-Aminopyrazin-2-yl)-N-cyclohexyl-3′-fluorobiphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and cyclohexanamine. MS (ESI): mass calcd. for C23H23FN4O, 390.19; m/z found, 391.4 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.60-8.53 (m, 1H), 8.11 (d, J=1.5, 1H), 8.03-7.93 (m, 1H), 7.74-7.62 (m, 1H), 7.54-7.37 (m, 3H), 7.32 (dd, J=8.0, 1.7, 1H), 7.30-7.20 (m, 1H), 5.24 (d, J=8.3, 1H), 4.72 (s, 2H), 3.93-3.73 (m, 1H), 1.78-1.67 (m, 2H), 1.61-1.44 (m, 3H), 1.39-1.27 (m, 2H), 1.14-0.98 (m, 1H), 0.97-0.81 (m, 2H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | cyclohexanamine | C1(CCCCC1)N | C6H13N
product | 4′-(5-Aminopyrazin-2-yl)-N-cyclohexyl-3′-fluorobiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)NC1CCCCC1)F | C23H23FN4O
